US06063782
5-[3-(4-Fluorophenyl)propionyl]-2,3-dimethyl-1-(2-methylcyclopropylmethyl)-pyrrole
The title compound was prepared as a pale yellow oil in 74.20% yield in a similar procedure to that described in Referential Example 97 by using 5-[3-(4-fluorophenyl)propionyl]-2,3-dimethylpyrrole and 2-methylcyclopropylmethyl bromide.

reactant | 5-[3-(4-fluorophenyl)propionyl]-2,3-dimethylpyrrole | FC1=CC=C(C=C1)CCC(=O)C1=CC(=C(N1)C)C | C15H16FNO
reactant | 2-methylcyclopropylmethyl bromide | CC1C(C1)CBr | C5H9Br
product | 5-[3-(4-Fluorophenyl)propionyl]-2,3-dimethyl-1-(2-methylcyclopropylmethyl)-pyrrole | 74.20% yield | FC1=CC=C(C=C1)CCC(=O)C1=CC(=C(N1CC1C(C1)C)C)C | C20H24FNO
